US05719139
(3R,4R) 4-acetoxy-3-[(1R)-(1-(tert-butyldimethylsilyloxy)ethyl)]azetidin-2-one (2 g, 56.96 mM) was dissolved in dichloromethane (150 ml) at ambient temperature and 4-methoxy-2-trimethylsilyloxybut-1,3-diene (1.5 ml, 7.65 mM) added followed by zinc iodide (2.2 g, 17 mM). The reaction mixture was shielded from light and stirred for 15 hours. The mixture was then washed with a 5% aqueous solution of sodium bicarbonate (30 ml) and then water (30 ml). The organic phase was dried with magnesium sulphate and the solvent evaporated. The residue was purified by chromatography on silica, eluting with ethyl acetate/dichloromethane (1:1) to give (3S,4R) 3-((1R)-1-(tert-butyldimethylsilyloxy)ethyl)-4-(4-methoxy-2-oxobut-3-en-1-yl)azetidin-2-one (0.96 g, 43%).

reactant | (3R,4R) 4-acetoxy-3-[(1R)-(1-(tert-butyldimethylsilyloxy)ethyl)]azetidin-2-one | 56.96 mM, 2 g | C(C)(=O)O[C@@H]1[C@H](C(N1)=O)[C@@H](C)O[Si](C)(C)C(C)(C)C | C13H25NO4Si
reactant | 4-methoxy-2-trimethylsilyloxybut-1,3-diene | 7.65 mM, 1.5 ml | COC=CC(=C)O[Si](C)(C)C | C8H16O2Si
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
catalyst | zinc iodide | 17 mM, 2.2 g | [I-].[Zn+2].[I-]
product | (3S,4R) 3-((1R)-1-(tert-butyldimethylsilyloxy)ethyl)-4-(4-methoxy-2-oxobut-3-en-1-yl)azetidin-2-one | 0.96 g, 43% | [Si](C)(C)(C(C)(C)C)O[C@H](C)[C@H]1C(N[C@@H]1CC(C=COC)=O)=O | C16H29NO4Si
